US06515179B2
A 28% sodium methoxide/methanol solution (0.77 ml; 2.50 molar equivalents) was added to a solution of (S)-N-(2-nitrobenzenesulfonyl)azetidine-2-carboxylic acid (429.4 mg; 46.4% ee) in dry dimethoxyethane (5 ml) at room temperature in a nitrogen atmosphere, followed by stirring for 3 hours at room temperature. One normal hydrochloric acid (2.25 ml), successively triethylamine (0.33 ml; 1.58 molar equivalents) and a dimethoxyethane solution (1.5 ml) containing di-tert-butyl dicarbonate (387.6 mg; 1.17 molar equivalents) were added to the reaction mixture, followed by stirring for 17 hours at room temperature. The reaction solvents were removed by evaporation under reduced pressure, and water (3 ml), ethyl acetate (15 ml) and 1 N hydrochloric acid (4 ml) were added to the resulting concentrate under ice cooling, followed by extraction and solution separation. The aqueous layer was extracted twice with ethyl acetate (15 ml and 10 ml). The resulting (developing solution: methylene chloride/hexane=1/1 to 2/1→ethyl acetate/hexane=1/10 to 1/2) to obtain (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (184.6 mg; overall yield: 61.1%). HPLC analysis conducted under the same conditions as in Reference Example 4 resulted in 38.8% ee.

reactant | sodium methoxide methanol | 2.50 molar, 0.77 ml | C[O-].[Na+].CO
reactant | (S)-N-(2-nitrobenzenesulfonyl)azetidine-2-carboxylic acid | 429.4 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1[C@@H](CC1)C(=O)O | C10H10N2O6S
reactant | hydrochloric acid | 2.25 ml | Cl | ClH
reactant | di-tert-butyl dicarbonate | 1.17 molar, 387.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 1.5 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
solvent | triethylamine | 1.58 molar, 0.33 ml | C(C)N(CC)CC | C6H15N
product | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | 184.6 mg, yield: 61.1% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
